US08207164B2
a) 2-(3-Bromo-phenyl)-2-tert-butoxycarbonylamino-3,3,3-trifluoro-propionic acid ethyl ester
A solution of 5.66 g (20 mmol) 1-bromo-3-iodo-benzene in 25 ml THF was stirred at −20° C. A 1.82 M solution of isopropylmagnesium chloride (12.1 ml, 22.0 mmol) in THF was added and the mixture was stirred 1 h at 0° C. The mixture was cooled to −78° C. and a solution of 5.38 g (20 mmol) 2-[(E)-tert-butoxycarbonylimino]-3,3,3-trifluoro-propionic acid ethyl ester in 50 ml of THF was added over a period of 2 h. After 20 min the mixture was quenched with 5% aqueous NH4Cl. The mixture was extracted with TBME. The organic phase was dried with Na2SO4, filtered and evaporated. Purification via chromatography on silica gel (c-hexane/0-14% EtOAc) gave the desired product as a colorless resin.

reactant | 1-bromo-3-iodo-benzene | 20 mmol, 5.66 g | BrC1=CC(=CC=C1)I | C6H4BrI
reactant | isopropylmagnesium chloride | 22.0 mmol, 12.1 ml | C(C)(C)[Mg]Cl
reactant | 2-[(E)-tert-butoxycarbonylimino]-3,3,3-trifluoro-propionic acid ethyl ester | 20 mmol, 5.38 g | C(C)OC(\C(\C(F)(F)F)=N/C(=O)OC(C)(C)C)=O | C10H14F3NO4
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 2-(3-Bromo-phenyl)-2-tert-butoxycarbonylamino-3,3,3-trifluoro-propionic acid ethyl ester | C(C)OC(C(C(F)(F)F)(NC(=O)OC(C)(C)C)C1=CC(=CC=C1)Br)=O | C16H19BrF3NO4
